US04462943
To a solution of L-alanine, t-butyl ester, hydrochloride (4.86 g., 26.7 mmole) in 35 ml. of absolute ethanol, there is added 4.2 ml. (6.72 mmole) of 1.6 N sodium ethoxide/ethanol. To the resulting milky solution which is approximately pH 7.5, is added a solution of ethyl 2-oxo-4-phenylbutyrate [prepared by treating ethyl 2-hydroxy-4-phenylbutyrate with oxalyl chloride] (27.6 g.,0.135 mmole) in 25 ml. of ethanol followed by 22 g. of powdered 3A° molecular sieves. The resulting mixture is stirred at room temperature and during the next 30 minutes a total of 4.8 ml. (7.68 mmole) of 1.6 N sodium ethoxide/ethanol is added to maintain a pH of between 6 and 7. After stirring for an additional 30 minutes, a solution of sodium cyanoborohydride (3.35 g., 53.5 mmole) in 20 ml. of ethanol is added over a period of six hours. After stirring for 40 hours, the mixture is filtered through celite and then evaporated at reduced pressure. The residue is dissolved in 350 ml. of ether and the resulting solution is washed with water (3×100 ml.) and then extracted with 1N hydrochloric acid (3×100 ml.). The hydrochloric acid extracts are combined and washed with ether and basified with 4N sodium hydroxide (70 ml.) followed by 1N sodium bicarbonate. The resulting mixture is extracted with ether (2×350 ml.). The ether fractions are combined, washed with water and brine, and dried (MgSO4). The solvent is removed at reduced pressure to give crude product as a mixture of diastereomers Rf =0.46 (undesired isomer) and 0.36 (desired isomer), silica gel, petroleum ether: ether, 1:1). The crude material is then filtered through a column of silica gel (petroleum ether:ether, 3:1). Chromatography (silica gel, hexane:ethyl acetate, 92:8) yields N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanine, t-butyl ester as a colorless oil. Rf =0.36 (silica gel, petroleum ether:ether, 1:1).

reactant | L-alanine, t-butyl ester, hydrochloride | 26.7 mmole, 4.86 g | Cl.N[C@@H](C)C(=O)OC(C)(C)C
reactant | sodium ethoxide ethanol | 6.72 mmole, 1.6 N | [O-]CC.[Na+].C(C)O
reactant | ethyl 2-oxo-4-phenylbutyrate | 0.135 mmole, 27.6 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | sodium ethoxide ethanol | 7.68 mmole, 1.6 N | [O-]CC.[Na+].C(C)O
reactant | sodium cyanoborohydride | 53.5 mmole, 3.35 g | C(#N)[BH3-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanine, t-butyl ester | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)OC(C)(C)C | C19H29NO4
